US05047540
To a solution of 1.52 g (4.9 mM) of diphenyl diselenide in 25 ml of dry ethanol is added 370 mg (9.78 mM) of sodium borohydride with ice-cooling and the mixture is stirred for 30 minutes. To the above mixture are added 0.56 ml (9.78 mM) of acetic acid and a solution of 1.03 g (1.63 mM) of 3-(3-iodopropylsulfonylamino)-2-methoxy-1-octadecylcarbamoyloxypropane in 10 ml of tetrahydrofuran and the mixture is stirred at room temperature for 1.5 hours. The product is extracted with ethyl acetate, and the organic layer is washed with 1N-hydrochloric acid, saturated aqueous sodium hydrogencarbonate, and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and evaporated. The residue is purified by the column chromatography on silica gel with a n-hexane-ethyl acetate (2:1) eluent to give 1.06 g (1.60 mM) of 2-methoxy-1-octadecylcarbamoyloxy-3-(3-phenylselenylpropylsulfonylamino)propane IIa1' as a colorless powder in 98% yield.

reactant | diphenyl diselenide | 4.9 mM, 1.52 g | C1(=CC=CC=C1)[Se][Se]C1=CC=CC=C1 | C12H10Se2
reactant | sodium borohydride | 9.78 mM, 370 mg | [BH4-].[Na+]
reactant | acetic acid | 9.78 mM, 0.56 ml | C(C)(=O)O | C2H4O2
reactant | 3-(3-iodopropylsulfonylamino)-2-methoxy-1-octadecylcarbamoyloxypropane | 1.63 mM, 1.03 g | ICCCS(=O)(=O)NCC(COC(NCCCCCCCCCCCCCCCCCC)=O)OC | C26H53IN2O5S
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 2-methoxy-1-octadecylcarbamoyloxy-3-(3-phenylselenylpropylsulfonylamino)propane | 1.60 mM, 1.06 g, 98% yield | COC(COC(NCCCCCCCCCCCCCCCCCC)=O)CNS(=O)(=O)CCC(C1=CC=CC=C1)[SeH] | C32H58N2O5SSe
